US07727988B2
5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E16)
5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (200 μl) to give the title compound as a white solid.

reactant | 5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | CC1=C(SC=C1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H26F3N3O2S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 200 μl | O1CCOCC1 | C4H8O2
product | 5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.CC1=C(SC=C1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H26F3N3O2S.ClH/c1-16-8-11-34-21(16)20-14-31(23(33)29-22(20)32)10-3-2-9-30-13-19-12-24(19,15-30)17-4-6-18(7-5-17)25(26,27)28;/h4-8,11,14,19H,2-3,9-10,12-13,15H2,1H3,(H,29,32,33);1H/t19-,24+;/m0./s1
